US04596828
To a suspension of sodium borohydride (2.50 g, 65.8 mmol) in ethanol (100 mL) at 5° C. was added a solution of 2-hydroxy-5-methoxybenzaldehyde (10.00 g, 65.8 mmol) in ethanol (35 mL) dropwise. Upon completion of the addition the reaction mixture was allowed to stir for ten minutes then quenched by the dropwise addition of 10% aqueous acetic acid (75 mL). The ethanol was removed by concentration in vacuo and the resulting mixture poured into water (250 mL) and extracted with ethylacetate (3×100 mL). The combined extracts were washed sequentially with saturated sodium bicarbonate (50 mL), and brine (3×100 mL). The organic extract was dried (Na2SO4) and concentrated to afford a crude product (8.75 g). Trituration with hexane:ether (3:2, 25 mL) afforded 2-hydroxy-5-methoxybenzyl alcohol (7.00 g, 70%) as a white solid.

reactant | sodium borohydride | 65.8 mmol, 2.50 g | [BH4-].[Na+]
reactant | 2-hydroxy-5-methoxybenzaldehyde | 65.8 mmol, 10.00 g | OC1=C(C=O)C=C(C=C1)OC | C8H8O3
reactant | hexane ether | 25 mL | CCCCCC.CCOCC
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | ethanol | 35 mL | C(C)O | C2H6O
product | 2-hydroxy-5-methoxybenzyl alcohol | 7.00 g, 70% | OC1=C(CO)C=C(C=C1)OC | C8H10O3
